US06720334B2
A solution of tert-butyl 4-(2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl)butylcarbamate (6.70 g, 15.8 mmol) in dichloromethane (50 mL) was slowly added to a chilled (0° C.) mixture of trifluoroacetic acid (60 mL) and dichloromethane (100 mL). The reaction mixture was allowed to warn to ambient temperature and then left overnight. The reaction mixtures was concentrated under reduced pressure to provide a brown oil. The oil was dissolved in dichloromethane and the solution was made basic (pH 14) with 5% aqueous sodium;hydroxide. The layers were separated and the aqueous layer was extracted with dichloromethane. The organic layers were combined, dried over magnesium sulfate and then concentrated under reduced pressure to provide 4.50 g of 4-(2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl)butylamine as a brown oil.

reactant | tert-butyl 4-(2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl)butylcarbamate | 15.8 mmol, 6.70 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCCCNC(OC(C)(C)C)=O | C24H32N4O3
reactant | trifluoroacetic acid | 60 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium | [Na] | Na
reactant | hydroxide | [OH-]
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 4-(2,6,7-trimethyl-4-phenoxy-1H-imidazo[4,5-c]pyridin-1-yl)butylamine | 4.50 g | CC=1N(C2=C(C(=NC(=C2C)C)OC2=CC=CC=C2)N1)CCCCN | C19H24N4O
